Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Seroquel / Haldol / fentanyl
 
Attending: ___.
 
Chief Complaint:
Joint Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of Sickle Cell Disease, Opiate dependence, who presents 
c/o acute pain crisis, and was admitted to medicine for pain 
control  
Pt noted that his last sickle crisis was in ___, and was 
treated at ___. Since then, he has transferred care to ___, 
and his PCP (Dr. ___ has been downtitrating his opiates. Pt 
is given weekly prescriptions, and most recently was 
downtitrated from 70tabs of 30mg Oxycodone per week to 60tabs 
weekly. He said that this change progressively worsened his pain 
and is likely the cause for his current pain crisis. However, he 
also acknowledged that his mothers illness (HIV/AIDS) has caused 
him great stress and may be contributing to his pain.  
At baseline has pain in hips and back and known b/l avascular 
necrosis. Current pain is in its typical location, along his 
spine and paraspinal musculature extending from "sacrum to my 
neck". Pain is constant ___, and not alleviated by pain meds 
at home or IV dilaudid given in ED. Pt notes that semi-recumbent 
position helps most, and reported having to use crutches in the 
past few days as pain was so severe. Hip pain is currently 
inactive, but typically very bothersome to him.  
Pt also described nausea/vomiting over the past month which 
recently increased in severity over past 2 days and is therefore 
no longer able to tolerate PO. Emesis non-bloody, gastric 
contents, ___. Denied abdominal pain or diarrhea, reported 
stooling normally ___.  
On ROS, pt endorsed sore throat 1 week ago (now resolved), 
fevers (<101 at home), and intermittent dysuria, but denied 
chills, rhoniorrhea, cough, rash. Of note, pt described above 
symptoms at his hematology visit on ___ and was given 
script for PO oxycodone, and IVF, in an attempt to manage it on 
an outpatient basis.  
In the ED initial vitals were: 10 98.2 72 113/61 18 98% RA. Labs 
were significant for WBC 9.2 (normal diff), Hgb 8.4 (Baseline 
~8), normal plt, smear w/ 1+ sickle cell, 9.2% retics, CHEM wnl, 
UA negative for infection. CXR showed no pneumonia, mild 
cardiomegaly.  
Patient was given 2L NS, Zofran, and 3x 1mg IV Dilaudid boluses. 
 
Vitals prior to transfer were: 10 98.0 58 95/46 16 99% RA  
On the floor, pt noted that his pain was untouched, still ___ 
and asked that he be augmented to "8mg IV Dilaudid, q2h:prn as 
that is what has worked in the past".  

 
Past Medical History:
Sickle Cell (born asplenic)  
Avascular Necrosis of b/l hips  
PAST SURGICAL HISTORY:  
Cord Decompressionb/l hip surgery  
Appendectomy  
Cholecystectomy  
Port A Cath placement x 4 given inability to achieve IV access  

 
Social History:
___
Family History:
Sickle cell disease.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
Vitals -97.7, BP98,50, P71, R16, O2100RA  
GENERAL: pleasant, semi-recumbent in bed, pleasant, occasionally 
jerks in bed and winces in pain, very thin male  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: nontender supple neck, no LAD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, unable to palpate spleen/liver  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose, all extremities are very thin. Pt has 
tenderness to palpation in lower extremities diffusely.  
CHEST: Has port in left upper chest, w/out palpable or skin 
abnormalities surrounding it. It is accessed w/ c/d/i dressing 
in place.  
BACK: Upon minimal palpation of spinous processess or paraspinal 
muscles pt winces, pulls away, appears to be in significant 
pain. With such limited exam difficult to asses but no bony/soft 
tissue abnormalities noted. No skin changes.  
NEURO: AOx3, fluent speech, normal affect, occasionally wincing 
in pain  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
============================
Vitals: 98.2-98.3 ___  RR ___  99-100% RA
General: alert, oriented, in mild distress ___ pain  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi
BACK: diffuse spinal/paraspinal ttp  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, b/l hip pain  
Neuro: speech fluent, motor function grossly normal  
 
Pertinent Results:
ADMISSION LABS:
==================

___ 05:17PM BLOOD WBC-9.2 RBC-2.29* Hgb-8.4* Hct-24.2* 
MCV-105* MCH-36.7* MCHC-34.8 RDW-18.4* Plt ___
___ 05:17PM BLOOD Neuts-56 Bands-1 ___ Monos-2 Eos-3 
Baso-0 ___ Myelos-0 NRBC-4*
___ 05:17PM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-3+ 
Macrocy-2+ Microcy-OCCASIONAL Polychr-NORMAL Ovalocy-OCCASIONAL 
Target-3+ Sickle-1+ Pencil-OCCASIONAL
___ 06:40AM BLOOD ___ PTT-32.7 ___
___ 05:17PM BLOOD Ret Man-9.2*
___ 05:17PM BLOOD Glucose-122* UreaN-10 Creat-0.7 Na-135 
K-4.0 Cl-102 HCO3-24 AnGap-13
___ 05:17PM BLOOD LD(LDH)-386* TotBili-1.5 DirBili-0.4* 
IndBili-1.1
___ 06:40AM BLOOD Calcium-8.0* Phos-2.9 Mg-2.0
___ 05:17PM BLOOD Hapto-<5*
___ 09:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 09:00PM URINE Color-Yellow Appear-Clear Sp ___

DISCHARGE LABS:
=====================
___ 05:56AM BLOOD WBC-10.0 RBC-2.13* Hgb-7.7* Hct-21.3* 
MCV-100* MCH-36.1* MCHC-36.1* RDW-17.9* Plt ___
___ 05:56AM BLOOD Ret Man-6.1*
___ 05:56AM BLOOD Glucose-89 UreaN-5* Creat-0.5 Na-137 
K-3.6 Cl-105 HCO3-26 AnGap-10
___ 05:56AM BLOOD LD(LDH)-321*
___ 05:56AM BLOOD Calcium-8.5 Phos-3.1 Mg-1.9
___ 05:56AM BLOOD Hapto-<5*
___ 06:40AM BLOOD HBsAg-NEGATIVE HBsAb-POSITIVE 
HBcAb-NEGATIVE
___ 05:56AM BLOOD HIV Ab-NEGATIVE
___ 06:40AM BLOOD HCV Ab-NEGATIVE

IMAGING:
===============
CXR ___: FINDINGS:  
Single AP portable chest radiograph. There is no focal opacity 
convincing for pneumonia.  Mild linear ccarring at the right 
lung base is noted. Heart appears mildly enlarged.  No evidence 
of pulmonary edema.  No evidence of pleural effusion. A left 
chest port is noted its tip terminating in the distal superior 
vena cava.  Osseous structures appear intact. 
IMPRESSION: No pneumonia.  Mild cardiomegaly. 

 
Brief Hospital Course:
___ PMH of Sickle Cell Disease, Opiate dependence, who presents 
c/o acute pain crisis, and was admitted to medicine for pain 
control
  
#Pain Crisis:  Unclear etiology. Possibly ___ sickle crisis, but 
only 1+ on smear, no schistocytes, Hgb at baseline. ___ be 
precipitated by poor PO in previous 2 days prior to admission 
secondary to nausea. URI possible in the week prior given sore 
throat, but no remaining sx now. UA negative for UTI. CXR 
negative for pneumonia. Other possibilities include non sickle 
pain including, too rapid downtitration of opiates, or 
psychosocial factors including anxiety ___ patients and his 
mother's illness). ___ Pain Service was consulted. Per their 
recs started patient on ketamine infusion at 12 mg/hour and IV 
dialudid 3 mg q3 hours. On day 3 ketamine infusion was decrased 
to 10 mg/hour due to ectopy, and dilaudid dose was increased to 
4 mg IV q2 hours. This dilaudid dose was the max dose that was 
given to the patient and was only given for 1 day. During this 
period patient was also given standing toradol 30 mg IV x4 days 
and prn ativan for agitation associated with ketamine. On day 4, 
IV dilaudid was downtritated as was ketamine infusion. On day 5 
all IV pain medications were discontinued and plan was to change 
to PO. Of note, during his stay patient stated he was unable to 
tolerate POs, however partially eaten trays of food were noted 
in room, and he repeatedly refused IV anti-emetics offered by 
nursing staff, concerning for IV opioid seeking behavior. When 
he was informed of the change to PO pain meds, he informed us 
that the was leaving. Patient was discharged with 1 week 
prescription for sixty 30 mg tablets of oxycodone ___ per day) 
which was his pre-admission opiod regimen. 

#Sickle Cell Anemia:  Pt is at baseline Hgb of ~8. Asplenic at 
birth so no risk for infarction.  Hemolysis labs with hapto < 5 
and elevated LDH.  Patient was seen by hematology team.  H/H 
remained stable throughout.  He was given maintenance IV fluids. 
 He was continued on his home Hydroxyurea.    

#Opiate Dependence: Pt reports hx of failing multiple outpt 
regimens including fentanyl patch, MS contin, ___ 
currently being downtitrated for fear of dependence by outpt PCP 
(Dr. ___. Home dose 30mg oxycodone q3h (60 tabs per week). 
 Chronic pain service followed as noted above.  Patient's 
inpatient IV regimen was with dilaudid (max dose was 4mg IV q2 
hours for 1 day), toradol and ketamine as noted above.  Patient 
discharged on outpatient oxycodone regimen.

#Iron Overload: Exjade is non-formulary, held medication while 
in house  

TRANSITIONAL ISSUES:
[ ] f/u with PCP regarding opioid regimen
[ ] f/u with hematology regarding continued management of sickle 
cell disease

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.25 mg PO TID:PRN anxiety/insomnia 
2. Exjade (deferasirox) ___ mg oral daily 
3. FoLIC Acid 5 mg PO DAILY 
4. Hydroxyurea 1500 mg PO DAILY 
5. OxycoDONE (Immediate Release)  30 mg PO Q3H:PRN pain 
6. bisacodyl 5 mg oral daily:prn 
7. Docusate Sodium 100 mg PO BID 
8. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. FoLIC Acid 5 mg PO DAILY 
3. Hydroxyurea 1500 mg PO DAILY 
4. Senna 8.6 mg PO BID:PRN constipation 
5. bisacodyl 5 mg oral daily:prn 
6. Exjade (deferasirox) ___ mg oral daily 
7. OxycoDONE (Immediate Release)  30 mg PO Q3H:PRN pain 
RX *oxycodone 30 mg 1 tablet(s) by mouth ___ times daily Disp 
#*60 Tablet Refills:*0
8. Promethazine 25 mg PO Q6H:PRN nausea 
RX *promethazine 25 mg 1 tablet by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Chronic Pain

Secondary Diagnosis:
2. Sickle cell anemia
3. Opioid dependence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you during your admission to ___ 
___.  You were admitted for pain 
control due to your sickle cell anemia.  You were seen by the 
Chronic Pain Service as well as the Hematology team.  You were 
started on IV pain medications (dilaudid, toradol) and a 
ketamine infusion.  You were then discharged on an oral 
oxycodone regimen that was equivalent to your pre-admission 
oxycodone regimen.  Please follow up with your primary care 
physician for continued management of your opioids and your 
sickle cell anemia. 

-Your ___ Team
 
Followup Instructions:
___